US04328355
8 Parts by volume of 2.5 molar n-butyl lithium is added to a solution of 3.1 parts of triethylsilyl acetylene in 20 parts by volume of ethyl ether at -30° C. The resulting solution is allowed to warm to room temperature, then it is cooled again to -30° C. and 3 parts of benzyl acetone is added. The reaction mixture is allowed to warm to room temperature and is then stirred for 1 hour. The reaction mixture is poured into ether and dilute hydrochloric acid. The ethereal layer is washed with water and dried over anhydrous sodium sulfate. The ether is removed under reduced pressure and the residual oil is dissolved in 15 parts by volume of dimethylformamide containing 2 parts of powdered potassium fluoride. This reaction mixture is stirred and heated at 70°-80° C. for 1 hour, after which time it is diluted with water and extracted with ether. The ether layer is separated and washed with water and dried over anhydrous sodium sulfate. The ether is removed under reduced pressure and the residue is chromatographed on silica gel using 30% ethyl acetate/hexane as eluent to provide 3-methyl-3-hydroxy-5-phenyl-1-pentyne.

reactant | n-butyl lithium | 2.5 molar | C(CCC)[Li]
reactant | triethylsilyl acetylene | C(C)[Si](CC)(CC)C#C | C8H16Si
reactant | benzyl acetone | C(C1=CC=CC=C1)CC(C)=O | C10H12O
reactant | hydrochloric acid | Cl | ClH
solvent | ether | CCOCC | C4H10O
solvent | ethyl ether | C(C)OCC | C4H10O
product | 3-methyl-3-hydroxy-5-phenyl-1-pentyne | CC(C#C)(CCC1=CC=CC=C1)O | C12H14O
